2196-11-22 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2196-11-21**] 01:29 PM
   - Respiratory decompensation after movement for bathing.  O2 Sat down
   to 79%.  Responded to albuterol/ipratropium nebs X2 and ativan 0.5mg IV
   X1.  She also received oxycodone for rib pain.  Then on transfer to
   MICU-6 from trauma ICU had another episode of desaturation to 88%.
   Responded well to another albuterol/ipratropium neb.
   History obtained from Patient
   Allergies:
   History obtained from PatientCodeine
   Abdominal pain;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash; Abdominal
   Erythromycin Base
   Unknown;
   Aspirin (Oral)
   Abdominal pain;
   Last dose of Antibiotics:
   Vancomycin - [**2196-11-21**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2196-11-22**] 02:10 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2196-11-21**] 08:19 PM
   Heparin Sodium (Prophylaxis) - [**2196-11-22**] 12:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-11-22**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (98.9
   HR: 107 (107 - 142) bpm
   BP: 118/66(78) {91/54(67) - 152/92(107)} mmHg
   RR: 14 (14 - 29) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 56.6 kg (admission): 56.5 kg
             Total In:
                                                                    660 mL
                                                                    220 mL
   PO:
                                                                    360 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    300 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                    915 mL
                                                                    230 mL
   Urine:
                                                                    915 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -255 mL
                                                                    -10 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   437 K/uL
   12.6 g/dL
   206 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.1 mEq/L
   15 mg/dL
   97 mEq/L
   138 mEq/L
   36.9 %
   9.5 K/uL
        [image002.jpg]
                            [**2196-11-22**]  02:12 AM
   WBC
   9.5
   Hct
   36.9
   Plt
   437
   Cr
   0.8
   Glucose
   206
   Other labs: PT / PTT / INR:13.1/27.3/1.1, ALT / AST:19/21, Alk Phos / T
   Bili:127/0.4, Differential-Neuts:92.0 %, Lymph:7.5 %, Mono:0.3 %,
   Eos:0.1 %, Albumin:4.1 g/dL, LDH:222 IU/L, Ca++:9.6 mg/dL, Mg++:2.3
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   Ms. [**Name13 (STitle) 7221**] is a 65 yo female with severe COPD on chronic steroids
   admitted with SOB secondary to COPD exacerbation.
   .
   Shortness of breath.  Patient had COPD exacerbation in setting of
   steroid taper (now at 30 mg/day of prednisone).  Possible LLL pneumonia
   on CXR.  She has received levaquin mult times recently for COPD flares,
   so will use azithromycin on this admission in addition to vanco/zosyn
   given frequent hospitalizations.  Patient briefly required BIPAP though
   now comfortable on home 02 requirements (3-4L NC).
   - albuterol, atrovent nebs
   - hold tiotropium
   - supplemental oxygen with goal O2 sat of 90-92%, BIPAP as needed
   - solumedrol 125 IV q 8 hours
   - azithromycin
   - begin bactrim prophylaxis for chronic steroid use and frequent
   exacerbations requiring high doses of steroids
   .
   Leukocytosis.  Patient has leukcytosis though likely secondary to PNA
   and chronic steroid use.  Has chronic cough with no fevers (though on
   steroids).  LLL infitrate on CXR.
   - follow WBC
   - monitor fever curve
   - azithromycin, vanco/zosyn for PNA
   - f/u blood, urine, sputum cultures
   .
   Osteoporosis.  History of vertebral fractures.
   - calcium/vit D
   .
   Tachycardia.  Patient has longstanding tachycardia.  Was euthyroid on
   last admission, had negative CTA on [**2196-9-23**].  No evidence of
   dehydration.  [**Month (only) 60**] be related to pain (has left rib pain/muscle strain)
   and/or frequent albuterol nebs.
   - monitor on tele
   - oxycodone prn for pain
   .
   Left rib pain.  Has osteoporosis and now with left rib pain after
   vigorous cough.
   - r/o rib fracture with rib films
   - oxycodone prn
   .
   Ppx: HSQ, bowel regimen, calcium/vitamin D, bactrim
   Access: PIV
   Comm: patient
   FULL CODE
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2196-11-21**] 01:31 PM
   20 Gauge - [**2196-11-21**] 01:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-11-22 08:22:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NASAL SWAB - At [**2196-11-21**] 01:29 PM
   Last night during bathing this AM she had acute resp distress with O2
   sats in low 80s requiring cont nebs and some pain control.  Then she
   was moved from T SICU to MICU for further management.
   Allergies:
   Codeine
   Abdominal pain;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash; Abdominal
   Erythromycin Base
   Unknown;
   Aspirin (Oral)
   Abdominal pain;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2196-11-22**] 02:10 AM
   Vancomycin - [**2196-11-22**] 08:10 AM
   Azithromycin - [**2196-11-22**] 08:10 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2196-11-21**] 08:19 PM
   Pantoprazole (Protonix) - [**2196-11-22**] 08:10 AM
   Heparin Sodium (Prophylaxis) - [**2196-11-22**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-11-22**] 08:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 35.7
C (96.2
   HR: 120 (107 - 142) bpm
   BP: 142/75(92) {91/54(67) - 152/92(107)} mmHg
   RR: 23 (14 - 29) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 56.6 kg (admission): 56.5 kg
             Total In:
                                                                    660 mL
                                                                    600 mL
   PO:
                                                                    360 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    300 mL
                                                                    360 mL
   Blood products:
   Total out:
                                                                    915 mL
                                                                    329 mL
   Urine:
                                                                    915 mL
                                                                    329 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -255 mL
                                                                    271 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 93%
   ABG: ///27/
   Physical Examination
      Gen: sitting up on side of bed, leaning over bedside table in tripod
   position
   HEENT: shovel mask
   CV: tachy RR
   Chest: bronchial BS in left lower lobe,  diffuse exp wheezes, i:e is
   1:3
   Abd: obese soft Nt + BS
   Ext: no edema
   Neuro: conversant
   Labs / Radiology
   12.6 g/dL
   437 K/uL
   206 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.1 mEq/L
   15 mg/dL
   97 mEq/L
   138 mEq/L
   36.9 %
   9.5 K/uL
        [image002.jpg]
                            [**2196-11-22**]  02:12 AM
   WBC
   9.5
   Hct
   36.9
   Plt
   437
   Cr
   0.8
   Glucose
   206
   Other labs: PT / PTT / INR:13.1/27.3/1.1, ALT / AST:19/21, Alk Phos / T
   Bili:127/0.4, Differential-Neuts:92.0 %, Lymph:7.5 %, Mono:0.3 %,
   Eos:0.1 %, Albumin:4.1 g/dL, LDH:222 IU/L, Ca++:9.6 mg/dL, Mg++:2.3
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   COPD exacerbation requiring non invasive ventilation: currently still
   in the midst of a severe exacerbation. Near intubation last evening but
   avoided. This AM still in sig distress.  Exacerbation may be due to LLL
   PNA. We will Rx with IV Medrol, nebs, check sputum culture but cover
   for nosocomial PNA with Vanco Zosyn azithro .
   Tachycardia: long standing issue with some cardiomyopathy and excess
   albuterol use. Have switched to xopenex. Will follow on telemetry.
   Repeat Echo and TFTs
   Remaining issues as per Housestaff notes
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2196-11-21**] 01:31 PM
   20 Gauge - [**2196-11-21**] 01:31 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer:
   Communication:  with pt
   [**Name (NI) 66**] status: Full code
   Disposition : ICU
   Total time spent: 40
   Critcally Ill

2196-11-23 09:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - No acute issues overnight
   - Two "skimpy" peripheral lines, if long term abx, PICC request
   The patient currently has no complaints.  She reports feeling much
   better.
   Allergies:
   Codeine
   Abdominal pain;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash; Abdominal
   Erythromycin Base
   Unknown;
   Aspirin (Oral)
   Abdominal pain;
   Last dose of Antibiotics:
   Azithromycin - [**2196-11-22**] 08:10 AM
   Bactrim (SMX/TMP) - [**2196-11-22**] 05:08 PM
   Vancomycin - [**2196-11-23**] 08:16 AM
   Piperacillin/Tazobactam (Zosyn) - [**2196-11-23**] 09:35 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2196-11-22**] 12:11 PM
   Heparin Sodium (Prophylaxis) - [**2196-11-23**] 08:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-11-23**] 09:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.1
C (97
   HR: 115 (96 - 127) bpm
   BP: 108/40(57) {82/11(44) - 147/89(98)} mmHg
   RR: 17 (14 - 24) insp/min
   SpO2: 89%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 56.6 kg (admission): 56.5 kg
             Total In:
                                                                  1,770 mL
                                                                    400 mL
   PO:
                                                                    960 mL
             TF:
   IVF:
                                                                    810 mL
                                                                    400 mL
   Blood products:
   Total out:
                                                                  1,166 mL
                                                                    515 mL
   Urine:
                                                                  1,166 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    604 mL
                                                                   -115 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 89%
   ABG: ///27/
   Physical Examination
   Gen: in NAD
   HEENT: NC, AT, EOMI, PERRLA
   CV:  tachycardic, normal S1,S2, no murmurs
   Pulm: distant breath sounds BL, decreased breath sounds at left base,
   no wheezes crackles or rhonchi
   Abd: soft, NT, ND, +BS
   Ext: no cyanosis, clubbing or edema
   Neuro: a+Ox3, cn2-12 intact, sensory and motor intact
   Labs / Radiology
   498 K/uL
   11.6 g/dL
   152 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.6 mEq/L
   18 mg/dL
   96 mEq/L
   135 mEq/L
   34.4 %
   16.3 K/uL
        [image002.jpg]
                            [**2196-11-22**]  02:12 AM
                            [**2196-11-23**]  02:15 AM
   WBC
   9.5
   16.3
   Hct
   36.9
   34.4
   Plt
   437
   498
   Cr
   0.8
   0.9
   Glucose
   206
   152
   Other labs: PT / PTT / INR:13.1/27.3/1.1, ALT / AST:19/21, Alk Phos / T
   Bili:127/0.4, Differential-Neuts:92.0 %, Lymph:7.5 %, Mono:0.3 %,
   Eos:0.1 %, Albumin:4.1 g/dL, LDH:222 IU/L, Ca++:9.9 mg/dL, Mg++:2.3
   mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   65 yo female with severe COPD on chronic steroids admitted with SOB
   secondary to COPD exacerbation.
   .
   #.  Dyspnea:  Most likely COPD exacerbation in setting of steroid taper
   (now at 30 mg/day of prednisone) in addition to LLL pneumonia on CXR.
   - Will continue azithromycin, vanco and zosyn (day 3) to cover for
   atypical pneumonia as well as HAP.
   - Will continue xopinex and atrovent nebs as needed, received scheduled
   overnight will use PRN today
   - Supplemental oxygen with goal O2 sat of 90-92%, BIPAP as needed
   - Continue solumedrol 125 IV q 8 hours (day 3), will continue for one
   more day then transition to slow prednisone taper, on SSI while on
   steroids
   - Continue bactrim prophylaxis for chronic steroid use and frequent
   exacerbations requiring high doses of steroids
   - Guaifenesin for symptomatic relief
   - will plan to place PICC for long term antibiotic therapy
   .
   #.  Leukocytosis.  Likely secondary to PNA and chronic steroid use.
   Elevated today, will check diff.
   - Will continue to follow WBC
   - patient afebrile overnight, continue to monitor curve
   - Continue broad spectrum azithromycin, vanco/zosyn for HAP coverage
   - f/u blood, urine, sputum cultures
 no growth to date, will attempt
   to repeat sputum culture
   .
   #. Osteoporosis.  History of vertebral fractures.
   - Continue calcium/vit D
   .
   #. Tachycardia.  Patient has longstanding tachycardia, worsened by beta
   agonist therapy.  Improved with xopinex
   - Continue to monitor on tele
   - oxycodone prn for pain
   .
   #. Left rib pain.  Rib films preliminary read did not show evidence of
   fracture.
   - oxycodone prn
   .
   Ppx: HSQ, bowel regimen, calcium/vitamin D, bactrim
   Access: PIV
   Comm: patient
   FULL CODE
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2196-11-21**] 01:31 PM
   20 Gauge - [**2196-11-21**] 01:31 PM
   Prophylaxis:
   DVT:   Heparin SC TID
   Stress ulcer:
   Communication:  Comments:
   Code status: Full code
   Disposition:  Plan to monitor for another 12 hours then may transition
   to the floor

2196-11-23 10:27:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yr old with PNA and COPD exacerbation
   24 Hour Events:
   remained off BIPAP
   Allergies:
   Codeine
   Abdominal pain;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash; Abdominal
   Erythromycin Base
   Unknown;
   Aspirin (Oral)
   Abdominal pain;
   Last dose of Antibiotics:
   Azithromycin - [**2196-11-22**] 08:10 AM
   Bactrim (SMX/TMP) - [**2196-11-22**] 05:08 PM
   Vancomycin - [**2196-11-23**] 08:16 AM
   Piperacillin/Tazobactam (Zosyn) - [**2196-11-23**] 09:35 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2196-11-22**] 12:11 PM
   Heparin Sodium (Prophylaxis) - [**2196-11-23**] 08:16 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-11-23**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.1
C (97
   HR: 115 (96 - 127) bpm
   BP: 108/40(57) {82/11(44) - 147/89(98)} mmHg
   RR: 17 (14 - 24) insp/min
   SpO2: 89%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 56.6 kg (admission): 56.5 kg
             Total In:
                                                                  1,770 mL
                                                                    400 mL
   PO:
                                                                    960 mL
             TF:
   IVF:
                                                                    810 mL
                                                                    400 mL
   Blood products:
   Total out:
                                                                  1,166 mL
                                                                    515 mL
   Urine:
                                                                  1,166 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    604 mL
                                                                   -115 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 89%
   ABG: ///27/
   Physical Examination
   Gen: sitting up in chair
   HEENT: o/p clear
   CV: tachy RR
   Chest: bronchial BS in left lower lobe,  no wheezing, i:e is 1:2
   Abd: obese soft Nt + BS
   Ext: no edema
   Neuro: conversant
   Labs / Radiology
   11.6 g/dL
   498 K/uL
   152 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.6 mEq/L
   18 mg/dL
   96 mEq/L
   135 mEq/L
   34.4 %
   16.3 K/uL
        [image002.jpg]
                            [**2196-11-22**]  02:12 AM
                            [**2196-11-23**]  02:15 AM
   WBC
   9.5
   16.3
   Hct
   36.9
   34.4
   Plt
   437
   498
   Cr
   0.8
   0.9
   Glucose
   206
   152
   Other labs: PT / PTT / INR:13.1/27.3/1.1, ALT / AST:19/21, Alk Phos / T
   Bili:127/0.4, Differential-Neuts:92.0 %, Lymph:7.5 %, Mono:0.3 %,
   Eos:0.1 %, Albumin:4.1 g/dL, LDH:222 IU/L, Ca++:9.9 mg/dL, Mg++:2.3
   mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   COPD exacerbation requiring non invasive ventilation: currently still
   in the midst of a severe exacerbation but perhaps is turning  the
   corner today..  Exacerbation may be due to LLL PNA. We will Rx with IV
   Medrol, nebs, repeat sputum culture but cover for nosocomial PNA with
   Vanco Zosyn azithro .
   Tachycardia: long standing issue with some cardiomyopathy and excess
   albuterol use. Have switched to xopenex. Will follow on telemetry.
   Needs PICC for better access.
   Remaining issues as per Housestaff notes
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2196-11-21**] 01:31 PM
   20 Gauge - [**2196-11-21**] 01:31 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: po diet
   Communication:  with pt
   [**Name (NI) 66**] status: Full code
   Disposition :  ICU - She is still tenuous from an oxygenation
   standpoint
 on and off shovel mask and desats with any movement
   Time 35 min

2196-11-24 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2196-11-23**] 04:49 PM
   - 02 Weaned to 4L
   - PICC placed yesterday
   Allergies:
   Codeine
   Abdominal pain;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash; Abdominal
   Erythromycin Base
   Unknown;
   Aspirin (Oral)
   Abdominal pain;
   Last dose of Antibiotics:
   Azithromycin - [**2196-11-22**] 08:10 AM
   Bactrim (SMX/TMP) - [**2196-11-22**] 05:08 PM
   Vancomycin - [**2196-11-23**] 08:49 PM
   Piperacillin/Tazobactam (Zosyn) - [**2196-11-24**] 01:42 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-11-23**] 11:46 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-11-24**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.4
C (95.8
   HR: 89 (81 - 125) bpm
   BP: 112/58(70) {95/40(57) - 147/89(117)} mmHg
   RR: 16 (14 - 24) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.6 kg (admission): 56.5 kg
             Total In:
                                                                  1,180 mL
                                                                    100 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                    700 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,155 mL
                                                                    310 mL
   Urine:
                                                                  1,155 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     25 mL
                                                                   -210 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///29/
   Physical Examination
   Gen: in NAD
   HEENT: NC, AT, EOMI, PERRLA
   CV:  tachycardic, normal S1,S2, no murmurs
   Pulm: distant breath sounds BL, decreased breath sounds at left base,
   no wheezes crackles or rhonchi
   Abd: soft, NT, ND, +BS
   Ext: no cyanosis, clubbing or edema
   Neuro: a+Ox3, cn2-12 intact, sensory and motor intact
   Labs / Radiology
   449 K/uL
   10.8 g/dL
   143 mg/dL
   0.8 mg/dL
   29 mEq/L
   4.0 mEq/L
   20 mg/dL
   98 mEq/L
   137 mEq/L
   31.6 %
   11.8 K/uL
        [image002.jpg]
                            [**2196-11-22**]  02:12 AM
                            [**2196-11-23**]  02:15 AM
                             [**2196-11-24**]  03:38 AM
   WBC
   9.5
   16.3
   11.8
   Hct
   36.9
   34.4
   31.6
   Plt
   437
   498
   449
   Cr
   0.8
   0.9
   0.8
   Glucose
   [**Telephone/Fax (3) 7275**]
   Other labs: PT / PTT / INR:12.3/32.7/1.0, ALT / AST:19/21, Alk Phos / T
   Bili:127/0.4, Differential-Neuts:92.8 %, Lymph:5.6 %, Mono:1.1 %,
   Eos:0.3 %, Albumin:4.1 g/dL, LDH:222 IU/L, Ca++:9.2 mg/dL, Mg++:2.4
   mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   65 yo female with severe COPD on chronic steroids admitted with SOB
   secondary to COPD exacerbation.
   .
   #.  Dyspnea:  Most likely COPD exacerbation in setting of steroid taper
   (now at 30 mg/day of prednisone) in addition to LLL pneumonia on CXR.
   - Will continue azithromycin, vanco and zosyn (day 3) to cover for
   atypical pneumonia as well as HAP.
   - Will continue xopinex and atrovent nebs as needed, received scheduled
   overnight will use PRN today
   - Supplemental oxygen with goal O2 sat of 90-92%, BIPAP as needed
   - Continue solumedrol 125 IV q 8 hours (day 3), will continue for one
   more day then transition to slow prednisone taper, on SSI while on
   steroids
   - Continue bactrim prophylaxis for chronic steroid use and frequent
   exacerbations requiring high doses of steroids
   - Guaifenesin for symptomatic relief
   - will plan to place PICC for long term antibiotic therapy
   .
   #.  Leukocytosis.  Likely secondary to PNA and chronic steroid use.
   Elevated today, will check diff.
   - Will continue to follow WBC
   - patient afebrile overnight, continue to monitor curve
   - Continue broad spectrum azithromycin, vanco/zosyn for HAP coverage
   - f/u blood, urine, sputum cultures
 no growth to date, will attempt
   to repeat sputum culture
   .
   #. Osteoporosis.  History of vertebral fractures.
   - Continue calcium/vit D
   .
   #. Tachycardia.  Patient has longstanding tachycardia, worsened by beta
   agonist therapy.  Improved with xopinex
   - Continue to monitor on tele
   - oxycodone prn for pain
   .
   #. Left rib pain.  Rib films preliminary read did not show evidence of
   fracture.
   - oxycodone prn
   .
   Ppx: HSQ, bowel regimen, calcium/vitamin D, bactrim
   Access: PIV
   Comm: patient
   FULL CODE
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2196-11-23**] 04:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-11-24 10:48:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2196-11-23**] 04:49 PM
   O2 weaned to 4 liters
   PICC placed
   Allergies:
   Codeine
   Abdominal pain;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash; Abdominal
   Erythromycin Base
   Unknown;
   Aspirin (Oral)
   Abdominal pain;
   Last dose of Antibiotics:
   Azithromycin - [**2196-11-22**] 08:10 AM
   Bactrim (SMX/TMP) - [**2196-11-22**] 05:08 PM
   Vancomycin - [**2196-11-24**] 08:20 AM
   Piperacillin/Tazobactam (Zosyn) - [**2196-11-24**] 10:03 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-11-24**] 08:11 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-11-24**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.7
C (96.3
   HR: 110 (81 - 115) bpm
   BP: 113/54(68) {95/51(63) - 144/105(117)} mmHg
   RR: 17 (14 - 22) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 56.6 kg (admission): 56.5 kg
             Total In:
                                                                  1,180 mL
                                                                    810 mL
   PO:
                                                                    480 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    700 mL
                                                                    450 mL
   Blood products:
   Total out:
                                                                  1,155 mL
                                                                    480 mL
   Urine:
                                                                  1,155 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     25 mL
                                                                    330 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///29/
   Physical Examination
   Gen: sitting up in chair
   HEENT: o/p clear
   CV: tachy RR
   Chest: bronchial BS in left lower lobe,  no wheezing, i:e is 1:2
   Abd: obese soft Nt + BS
   Ext: no edema
   Neuro: conversant
   Labs / Radiology
   10.8 g/dL
   449 K/uL
   143 mg/dL
   0.8 mg/dL
   29 mEq/L
   4.0 mEq/L
   20 mg/dL
   98 mEq/L
   137 mEq/L
   31.6 %
   11.8 K/uL
        [image002.jpg]
                            [**2196-11-22**]  02:12 AM
                            [**2196-11-23**]  02:15 AM
                             [**2196-11-24**]  03:38 AM
   WBC
   9.5
   16.3
   11.8
   Hct
   36.9
   34.4
   31.6
   Plt
   437
   498
   449
   Cr
   0.8
   0.9
   0.8
   Glucose
   [**Telephone/Fax (3) 7275**]
   Other labs: PT / PTT / INR:12.3/32.7/1.0, ALT / AST:19/21, Alk Phos / T
   Bili:127/0.4, Differential-Neuts:92.8 %, Lymph:5.6 %, Mono:1.1 %,
   Eos:0.3 %, Albumin:4.1 g/dL, LDH:222 IU/L, Ca++:9.2 mg/dL, Mg++:2.4
   mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   COPD exacerbation initially  requiring non invasive ventilation:
   currently resolving severe exacerbation which may be due to LLL PNA.
   Day [**3-7**] ABX
 may be able ot convert to po ABX tomorrow.  We will
   convert to po Prednisone, nebs, repeat sputum culture but cover for
   nosocomial PNA with Vanco Zosyn azithro .
   Tachycardia: long standing issue with some cardiomyopathy and excess
   albuterol use. Have switched to xopenex. Will follow on telemetry.
   Remaining issues as per Housestaff notes
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   PICC Line - [**2196-11-23**] 04:49 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   Communication:  with pt
   [**Name (NI) 66**] status: Full code
   Disposition :Transfer to floor